US07655666B2
A solution of 2-acetylamino-5-iodo-4-trifluoromethyl-benzoic acid methyl ester (18.0 g, 46.5 mmol) in dry toluene (72 mL) was degassed for 5 min at the ultrasound bath. The solution was then treated with tributyl(vinyl)tin (28 mL, 93 mmol) and tetrakis-(triphenylphosphine)-palladium (2.77 g, 2.33 mmol), and heated to reflux for 2 h. The mixture was allowed to cool to r.t. and potassium fluoride dihydrate (22 g) was then added. This suspension was stirred for 30 min at r.t. and was then filtered on a short pad of silica gel. The filter was washed with diethyl ether and the filtrate was concentrated in vacuo. The crude product was taken up in hexanes and the suspension was filtered. The filtrate was concentrated in vacuo again and allowed to stand at r.t. for 7 d. The solid formed was filtered, washed with hexanes and combined with the product previously isolated to give 2-acetylamino-4-trifluoromethyl-5-vinyl-benzoic acid methyl ester (10.0 g, 34.8 mmol, 75%) as a beige solid, m.p. 79-81° C., ESI-MS: m/z 288 [M+H]+.

reactant | 2-acetylamino-5-iodo-4-trifluoromethyl-benzoic acid methyl ester | 46.5 mmol, 18.0 g | COC(C1=C(C=C(C(=C1)I)C(F)(F)F)NC(C)=O)=O | C11H9F3INO3
reactant | tributyl(vinyl)tin | 93 mmol, 28 mL | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | potassium fluoride dihydrate | 22 g | O.O.[F-].[K+]
solvent | toluene | 72 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis-(triphenylphosphine)-palladium | 2.33 mmol, 2.77 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-acetylamino-4-trifluoromethyl-5-vinyl-benzoic acid methyl ester | 34.8 mmol, 10.0 g, 75% | COC(C1=C(C=C(C(=C1)C=C)C(F)(F)F)NC(C)=O)=O | C13H12F3NO3
